US05420172
P Production of N,N-bis(3-chloro-2-hydroxypropyl)-aniline
1.0 mol of aniline and 2.4 mol of epichlorohydrin are heated in 375 ml of ethanol for 16 h under reflux. The solvent is then removed in vacuum and the residue introduced drop by drop into n-hexane. The crystals obtained are filtered off and dried (yield: 75%); MP: 60° C.

reactant | aniline | 1.0 mol | NC1=CC=CC=C1 | C6H7N
reactant | epichlorohydrin | 2.4 mol | C(Cl)C1CO1 | C3H5ClO
solvent | ethanol | 375 ml | C(C)O | C2H6O
product | N,N-bis(3-chloro-2-hydroxypropyl)-aniline | yield: 75% | ClCC(CN(C1=CC=CC=C1)CC(CCl)O)O | C12H17Cl2NO2
